US09381191B2
Step 1: Preparation of 2-((3-((4-fluorophenyl)ethynyl)-imidazo[1,2-a]pyridin-2-yl)methoxy) acetyl chloride
1.5 g (4.63 mmol) of 2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)acetic acid were suspended in 40 ml of dichloromethane with magnetic stirring, the mixture was placed in a bath at 0° C. and then 1.215 ml (13.88 mmol) of oxalyl chloride were added dropwise, finally, a few drops of dimethylformamide were added. The cold bath was withdrawn and then the mixture was stirred at r.t. for 1 h. The reaction medium was concentrated in vacuo and immediately used in the next step.

reactant | 2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)acetic acid | 4.63 mmol, 1.5 g | FC1=CC=C(C=C1)C#CC1=C(N=C2N1C=CC=C2)COCC(=O)O | C18H13FN2O3
reactant | oxalyl chloride | 13.88 mmol, 1.215 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | 2-((3-((4-fluorophenyl)ethynyl)-imidazo[1,2-a]pyridin-2-yl)methoxy) acetyl chloride | FC1=CC=C(C=C1)C#CC1=C(N=C2N1C=CC=C2)COCC(=O)Cl | C18H12ClFN2O2
